US07425634B2
(40a) 2-oxobutyl acetate
A mixture of 1-bromobutan-2-one (10 g, 66.2 mmol), potassium acetate (7.8 g, 79.4 mmol), and N,N-dimethylformamide (50 ml) was stirred at room temperature for 5 days. Water was added to the reaction mixture and extracted with diethyl ether twice. The organic layers were combined and washed with a saturated saline solution, dried over magnesium sulfate, and filtrated. The filtrate was concentrated under reduced pressure to obtain the title compound (8.24 g) in the form of a mixture with N,N-dimethylformamide.

reactant | 1-bromobutan-2-one | 66.2 mmol, 10 g | BrCC(CC)=O | C4H7BrO
reactant | potassium acetate | 79.4 mmol, 7.8 g | C(C)(=O)[O-].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-oxobutyl acetate | 8.24 g | C(C)(=O)OCC(CC)=O | C6H10O3
